US07432288B2
1-[(6-Aminopyridin-3-yl)methyl]-3-{[4-(difluoromethoxy)phenyl]amino}-4-phenyl-1H-pyrrole-2,5-dione
A mixture of tert-butyl {5-[(3-chloro-2,5-dioxo-4-phenyl-2,5-dihydro-1H-pyrrol-1-yl)methyl]pyridin-2-yl}carbamate ( 0.70 g, 1.7 mmol) and 4-(difluoromethoxy)-aniline (0.54 g, 3.4 mmol) in DMF (4 mL) was heated in a microwave reactor at 150° C. for eight min. The solvent was evaporated and the residue was purified on a column (Isolute® SI, 10 g/70 mL), using CH2Cl2 and then CH3OH/CH2Cl2 (1:99, 2:98 and then 5:95) as eluant, to give 0.4 g (54%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 7.99 (bs, 1H), 7.67-7.62 (m, 2H), 7.14-7.04 (m, 3H), 6.91 (d, J=8 Hz, 2H), 6.78 (d, J=8 Hz, 1H), 6.72 (d, J=9 Hz, 2H), 6.63 (d, J=9 Hz, 2H), 6.33 (t, J=74 Hz, 1H), 4.60 (s, 2H).

reactant | tert-butyl {5-[(3-chloro-2,5-dioxo-4-phenyl-2,5-dihydro-1H-pyrrol-1-yl)methyl]pyridin-2-yl}carbamate | 1.7 mmol, 0.70 g | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CC=1C=CC(=NC1)NC(OC(C)(C)C)=O)=O | C21H20ClN3O4
reactant | 4-(difluoromethoxy)-aniline | 3.4 mmol, 0.54 g | FC(OC1=CC=C(N)C=C1)F | C7H7F2NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-[(6-Aminopyridin-3-yl)methyl]-3-{[4-(difluoromethoxy)phenyl]amino}-4-phenyl-1H-pyrrole-2,5-dione | 0.4 g, 54% | NC1=CC=C(C=N1)CN1C(C(=C(C1=O)C1=CC=CC=C1)NC1=CC=C(C=C1)OC(F)F)=O | C23H18F2N4O3
